US05616599
Ethyl 1-[(2'-t-butoxycarbonylbiphenyl-4yl)methyl]-2-ethyl-4-(1-hydroxy-1-methylethyl)imidazole-5-carboxylate (Compound No. 1-130)
0.337 g of potassium t-butoxide was added to a solution of 0.68 g of ethyl 2-ethyl-4-(1-hydroxy-1-methylethyl)imidazole-5-carboxylate (prepared as described in Preparation 37) in 7 ml of N,N-dimethylacetamide, and the resulting mixture was stirred at room temperature for 10 minutes. 1.04 g of t-butyl 4'-bromomethylbiphenyl-2-carboxylate was then added to the resulting solution, and the reaction mixture was stirred at room temperature for 4 hours. At the end of this time, it was mixed with ethyl acetate and water. The ethyl acetate layer was separated, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The residue was purified by column chromatography through silica gel, using a 1:1 by volume mixture of ethyl acetate and hexane as the eluent, to give 1.32 g of the title compound as a gum.

reactant | potassium t-butoxide | 0.337 g | CC(C)([O-])C.[K+]
reactant | ethyl 2-ethyl-4-(1-hydroxy-1-methylethyl)imidazole-5-carboxylate | 0.68 g | C(C)C=1NC(=C(N1)C(C)(C)O)C(=O)OCC | C11H18N2O3
reactant | t-butyl 4'-bromomethylbiphenyl-2-carboxylate | 1.04 g | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C | C18H19BrO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylacetamide | 7 ml | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | Ethyl 1-[(2'-t-butoxycarbonylbiphenyl-4yl)methyl]-2-ethyl-4-(1-hydroxy-1-methylethyl)imidazole-5-carboxylate | 1.32 g | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C(=O)OCC)C(C)(C)O)CC | C29H36N2O5
